US07232930B2
N-[4-[(2S)-Tetrahydro-5-oxo-2-furanyl]-phenyl]methanesulfonamide (IIb)
Methyl (γS)-4-[(methylsulfonyl) amino]-γ-hydroxybenzenebutanoate (17.9 g, 62.3 mmol) from Preparation 2 was placed in a flask with 350 ml of CH2Cl2 and the resulting slurry was cooled to 0° C. To this mixture was added 0.12 g of p-TsOH•H2O (1.5 mol %). The reaction was monitored for completion by HPLC until NMT 2% hydroxy ester remained (expect 4-6 h). The reaction mixture was washed with H2O (2×250 ml) and brine (250 ml) while maintaining the temperature at 0° C. The pH of the final wash must be maintained at GT 5). The organic layer was dried with MgSO4, filtered and concentrated under reduced pressure. The resulting solids were recrystallized from EtOAc (25 ml) to provide 12.1 g (76% yield) of the title compound as white solids (95 area %, 97% ee). Melting point 101-102° C. 1H NMR (400 MHz, CDCl3) δ 7.24 (dt, J=8.0, 8.6 Hz, 4H), 5.43 (m, 1H), 2.97 (s, 3H), 2.63 (m, 3H), 2.14 (m, 1H); 13C NMR (100 MHz, CDCl3) δ C 177.0, 137.2, 136.0; CH 126.8, 120.7, 80.9; CH2 30.7, 29.0; CH3 39.4; MS m/z calcd for C11H13NO4S, 255.056 (M+); found 254.95 (M+).

reactant | Methyl (γS)-4-[(methylsulfonyl) amino]-γ-hydroxybenzenebutanoate | 62.3 mmol, 17.9 g | CS(=O)(=O)NC1=CC=C(C=C1)[C@H](CCC(=O)OC)O | C12H17NO5S
reactant | p-TsOH•H2O | 0.12 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | CH2Cl2 | 350 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(2S)-Tetrahydro-5-oxo-2-furanyl]-phenyl]methanesulfonamide | 12.1 g, 76% yield | O=C1CC[C@H](O1)C1=CC=C(C=C1)NS(=O)(=O)C | C11H13NO4S
